US04897391
Add pyridinium chlorochromate (2.96 g) and 3Å, 1/16-inch molecular sieves (2.96 g) to a solution of 1-[3,5-bis(acetyloxy)benzoyl]-α-phenyl-2-piperidinemethanol (2.66 g) in dry dichloromethane (60 ml). Stir the resulting mixture at 23° C. for 4 hours. Filter the mixture through diatomaceous earth, and concentrate the filtrate. Chromatograph the residue over silica gel, and elute the column with 10% ethyl acetate in chloroform. Combine appropriate fractions, concentrate them, and crystallize the residue to obtain 2-benzoyl-1-[3,5-bis(acetyloxy)benzoyl]-piperidine, m.p. 77°-79° C. (from ether-pet. eth.).

reactant | pyridinium chlorochromate | 2.96 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 1-[3,5-bis(acetyloxy)benzoyl]-α-phenyl-2-piperidinemethanol | 2.66 g | C(C)(=O)OC=1C=C(C(=O)N2C(CCCC2)C(O)C2=CC=CC=C2)C=C(C1)OC(C)=O | C23H25NO6
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-benzoyl-1-[3,5-bis(acetyloxy)benzoyl]-piperidine | C(C1=CC=CC=C1)(=O)C1N(CCCC1)C(C1=CC(=CC(=C1)OC(C)=O)OC(C)=O)=O | C23H23NO6
